US07799894B2
(2) Synthesis of 2,3-dithienyl-5-aminoquinoxaline
1.01 g (3.0 mmol) of 2,3-dithienyl-5-nitroquinoxaline was dissolved in 30 g of dioxane and the system was fully purged with argon. Thereafter, 0.3 g of 5% Pd/C (hydrous) was added, followed by purging satisfactorily with argon again. This system was purged with a hydrogen gas and reacted at room temperature for 24 hours. After completion of the reaction, the system was filtered. The resulting filtration residue was washed with acetone and then with dioxane, and was filtered again. The solvent was removed from the resulting filtrate, and a reaction product was extracted with a silica gel column.

reactant | 2,3-dithienyl-5-nitroquinoxaline | 3.0 mmol, 1.01 g | S1C(=CC=C1)C1=NC2=CC=CC(=C2N=C1C=1SC=CC1)[N+](=O)[O-] | C16H9N3O2S2
solvent | dioxane | 30 g | O1CCOCC1 | C4H8O2
product | 2,3-dithienyl-5-aminoquinoxaline | S1C(=CC=C1)C1=NC2=CC=CC(=C2N=C1C=1SC=CC1)N | C16H11N3S2
